US05008456
1st stage 4-n-Propylcyclohexanone 650 g and phenol 1550 g were mixed, and hydrochloric acid gas was blown to the mixture with vigorously stirring at room temperature. The mixture was vigorously stirred for three hours and then left for 50 hours at room temperature. Meantime, the reaction solution was solidified. Warm water 1,000 ml and toluene 3,000 ml were added to the solid. The solid was heated and dissolved completely. The crystals deposited from the solution after cooling were filtered and washed with water and with toluene. After drying the crystals, white crystals 658 g of 1,1-bis(4-hydroxyphenyl)-4-n-propylcyclohexane was obtained by recrystallization from acetone.

reactant | 4-n-Propylcyclohexanone | 650 g | C(CC)C1CCC(CC1)=O | C9H16O
reactant | phenol | 1550 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | Cl | ClH
reactant | water | 1,000 ml | O | H2O
solvent | toluene | 3,000 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-bis(4-hydroxyphenyl)-4-n-propylcyclohexane | 658 g | OC1=CC=C(C=C1)C1(CCC(CC1)CCC)C1=CC=C(C=C1)O | C21H26O2
